US07071200B2
Step 3A: Preparation of 2-chloro-3-methoxybenzaldehyde 3a
To a solution of 2-chloro-3-hydroxybenzaldehyde (4.55 g, 29 mmol) in DMF (30 mL) was added K2CO3 (4.8 g, 34.9 mmol) followed by Mel (2.7 mL, 43.6 mmol), and the mixture was stirred at room temperature for 16 hours. Following concentration in vacuo, the residual was taken up in ethyl acetate, washed with H2O, brine, dried over Na2SO4, and concentrated. Purification by column chromatography on silica gel with ethyl acetate/hexanes 1/5 afforded 2-chloro-3-methoxybenzaldehyde 3a (4.68 g, 94%) as a colorless oil, which solidified upon standing. GCMS (EI) m/z 170, 172 (M+).

reactant | 2-chloro-3-hydroxybenzaldehyde | 29 mmol, 4.55 g | ClC1=C(C=O)C=CC=C1O | C7H5ClO2
reactant | K2CO3 | 34.9 mmol, 4.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-chloro-3-methoxybenzaldehyde | ClC1=C(C=O)C=CC=C1OC | C8H7ClO2
